US05003069
A mixture of 28.1 g (0.72 mole) of sodamide, 400 cc of toluene containing 0.1 cc of oleic acid, and 65.5 g (0.60 mole) of 3-methoxypyridine was placed in a liter Magne Drive, equipped as described in Example 15. The autoclave was closed and purged of air with ammonia, pressurized to 30 psig with ammonia and then to 200 psig with nitrogen. The pressure relief valve was set at 340 psig. Cooling water was turned on the reflux condenser. The mixture was heated with stirring to 120° C. and kept heating (maximum temperature 136° C.) for about 4.5 hours until noncondensable gases stopped passing through the pressure relief valve. The autoclave was cooled the 25° C., vented to atmospheric pressure, and hydrolyzed with 150 cc of water. The oil phase was separated. The aqueous phase was extracted twice with 50 cc of an equal volume solution of 4-picoline and toluene. The oil layer and extracts were combined and distilled under vacuum to give 0.14 mole of recovered 3-methypyridine, 0.05 moles of 2-aminopyridine. 0.02 moles of 3-aminopyridine, 0.02 moles of 2-amino-3-methylpyridine, and 0.18 moles of 3-hydroxypyridine. When 3-methoxypyridine was aminated with sodamide in refluxing xylene at atmospheric pressure, a 40.3% yield of 2-amino-3-methoxypyridine (m.p. 79°-80° C.) was obtained. Both 2-amino-3-methylpyridine and 2-amino-3-methoxypyridine are valuable as starting materials for preparing herbicides as shown in Suzuki et al., Ger. Offen. 2,831,578 (1979). The 3-hydroxypyridine is a valuable starting material for the preparation of the drugs pirbuterol (cardiostimulant and oral brochodialator) and pyridostigmine (cholinergic).

reactant | 3-aminopyridine | 0.02 moles | NC=1C=NC=CC1 | C5H6N2
reactant | 2-amino-3-methylpyridine | 0.02 moles | NC1=NC=CC=C1C | C6H8N2
reactant | 3-hydroxypyridine | 0.18 moles | OC=1C=NC=CC1 | C5H5NO
reactant | 3-methoxypyridine | COC=1C=NC=CC1 | C6H7NO
reactant | sodamide | [NH2-].[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-amino-3-methoxypyridine | 40.3% yield | NC1=NC=CC=C1OC | C6H8N2O
